US08957080B2
Into a 100 mL round-bottom flask, was placed 3-(2-fluoro-4-phenoxyphenyl)-1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (278 mg, 0.69 mmol, 1.00 equiv), 2-cyanoacetic acid (36.8 mg, 0.43 mmol, 0.80 equiv), HATU (210 mg, 0.55 mmol, 0.80 equiv), triethylamine (109 mg, 1.08 mmol, 2.00 equiv), and N,N-dimethylformamide (50 mL). The resulting solution was stirred for 3 h at 25° C., then diluted with 200 mL of water and extracted with ethyl acetate and the organic layers combined, dried and concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (50/1) to give 200 mg (62%) of 3-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidin-1-yl]-3-oxopropanenitrile as a yellow solid.

reactant | 3-(2-fluoro-4-phenoxyphenyl)-1-[(2R)-pyrrolidin-2-ylmethyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.69 mmol, 278 mg, 1.00 equiv | FC1=C(C=CC(=C1)OC1=CC=CC=C1)C1=NN(C2=NC=NC(=C21)N)C[C@@H]2NCCC2 | C22H21FN6O
reactant | 2-cyanoacetic acid | 0.43 mmol, 36.8 mg, 0.80 equiv | C(#N)CC(=O)O | C3H3NO2
reactant | HATU | 0.55 mmol, 210 mg, 0.80 equiv | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 1.08 mmol, 109 mg, 2.00 equiv | C(C)N(CC)CC | C6H15N
solvent | water | 200 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-[(2R)-2-[[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl]pyrrolidin-1-yl]-3-oxopropanenitrile | 200 mg, 62% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@@H]2N(CCC2)C(CC#N)=O | C25H22FN7O2
